US04215215
9-(4-methoxy-2,3,6-trimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid ethyl ester;
9-(4-methoxy-2,3,6-trimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid and isopropyl iodide is converted to

reactant | 9-(4-methoxy-2,3,6-trimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid | COC1=C(C(=C(C(=C1)C)C=CC(=CC=CC(=CC(=O)O)C)C)C)C | C21H26O3
reactant | isopropyl iodide | C(C)(C)I | C3H7I
product | 9-(4-methoxy-2,3,6-trimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid ethyl ester | C(C)OC(C=C(C=CC=C(C=CC1=C(C(=C(C=C1C)OC)C)C)C)C)=O | C23H30O3
